US08404719B2
3-(1,4′-bipiperidin-1′-ylcarbonyl)-N-(4-fluorophenyl)benzenesulfonamide
To 3-(chlorosulfonyl)benzoyl chloride (0.359 g, 1.5 mmol) in anhydrous dichloromethane (80 mL) was added 1,4′-bipiperidine (0.252 g, 1.5 mmol) in dichloromethane (4 mL) slowly over 10 minutes at room temperature. Then sodium carbonate (0.32 g, 3 mmol) was added. The mixture was stirred at room temperature for 5 hours. Then 4-fluoroaniline (1.167 g, 10.5 mmol) was added. The mixture was stirred at room temperature for 3 days, then sodium carbonate (0.32 g, 3 mmol) and methanol (5 mL) were added. The mixture was stirred for 20 minutes, then filtered, and concentrated. The residue was purified by chromatography on silica gel (ethyl acetate, then methanol/ethyl acetate=1:10) to give the titled compound: 1H NMR (400 MHz, DMSO-d6) δ ppm 1.40-1.90 (m, 10H), 2.60-3.40 (m, 8H), 4.45 (m, 1H), 7.08 (m, 4H), 7.62 (m, 3H), 7.78 (m, 1H); MS (ESI) m/z 446 (M+H)+.

reactant | 3-(chlorosulfonyl)benzoyl chloride | 1.5 mmol, 0.359 g | ClS(=O)(=O)C=1C=C(C(=O)Cl)C=CC1 | C7H4Cl2O3S
reactant | 1,4′-bipiperidine | 1.5 mmol, 0.252 g | N1(CCCCC1)C1CCNCC1 | C10H20N2
reactant | sodium carbonate | 3 mmol, 0.32 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-fluoroaniline | 10.5 mmol, 1.167 g | FC1=CC=C(N)C=C1 | C6H6FN
reactant | sodium carbonate | 3 mmol, 0.32 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
solvent | methanol | 5 mL | CO | CH4O
product | 3-(1,4′-bipiperidin-1′-ylcarbonyl)-N-(4-fluorophenyl)benzenesulfonamide | N1(CCCCC1)C1CCN(CC1)C(=O)C=1C=C(C=CC1)S(=O)(=O)NC1=CC=C(C=C1)F | C23H28FN3O3S
